US03984397
To a solution of 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-(2-phenyl-2-formyloxyacetamido)penam-3-carboxylate (1.52 g.) in dimethylformamide (7.5 ml.) were added acetic acid (2.3 ml.) and zinc powder (1.8 g.) under ice-cooling, and the mixture was stirred for 1 hour. After the reaction, the reaction mixture was post-treated in the similar manner as described in Example 1 to the distillation of ethyl acetate to give oily 2-methyl-2,3-methylene-6-(2-phenyl-2-formyloxyacetamido)penam-3-carboxylic acid (1.1 g.).

reactant | 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-(2-phenyl-2-formyloxyacetamido)penam-3-carboxylate | 1.52 g | CC12S[C@H]3N(C1(C(=O)OCC(Cl)(Cl)Cl)C2)C(C3NC(C(OC=O)C3=CC=CC=C3)=O)=O | C19H17Cl3N2O6S
reactant | acetic acid | 2.3 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 1.8 g | [Zn] | Zn
product | 2-methyl-2,3-methylene-6-(2-phenyl-2-formyloxyacetamido)penam-3-carboxylic acid | 1.1 g | CC12S[C@H]3N(C1(C(=O)O)C2)C(C3NC(C(OC=O)C3=CC=CC=C3)=O)=O | C17H16N2O6S
